US08431573B2
4-(Cyclopentylamino)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 150 mg (0.57 mmol) of 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile are reacted with 485 mg (5.70 mmol) of cyclopentylamine to give 46 mg (26% of theory) of the title compound.

reactant | 4-(methylsulphanyl)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | 0.57 mmol, 150 mg | CSC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C11H9N3OS2
reactant | cyclopentylamine | 5.70 mmol, 485 mg | C1(CCCC1)N | C5H11N
product | 4-(Cyclopentylamino)-6-oxo-2-(3-thienylmethyl)-1,6-dihydropyrimidine-5-carbonitrile | C1(CCCC1)NC=1N=C(NC(C1C#N)=O)CC1=CSC=C1 | C15H16N4OS
